US08227601B2
To a solution of 4-aminobenzonitrile (184 mg, 1.56 mmol) in 1-methyl-2-pyridone (2 mL) was added NaH (62 mg, 1.56 mmol). The reaction mixture was stirred at room temperature for 15 min and a solution of 7-benzyl-2-fluoro-4-(2,4,6-trimethyl-phenylsulfanyl)-7H-pyrrolo[2,3-d]pyrimidine (118 mg, 0.31 mmol) in 1-methyl-2-pyridone (2 mL) was added to the mixture. The mixture was stirred at room temperature for 4 h, then poured into ice water and extracted with EtOAc (2×20 mL). The combined organic solution was washed with H2O (20 mL) and brine (20 mL), dried with Na2SO4, and concentrated to dryness. Silica gel chromatography (Hexanes:EtOAc=75:25) yielded 123 mg (83%) of 4-[7-benzyl-4-(2,4,6-trimethyl-phenylsulfanyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino]-benzonitrile.

reactant | 4-aminobenzonitrile | 1.56 mmol, 184 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | NaH | 1.56 mmol, 62 mg | [H-].[Na+]
reactant | 7-benzyl-2-fluoro-4-(2,4,6-trimethyl-phenylsulfanyl)-7H-pyrrolo[2,3-d]pyrimidine | 0.31 mmol, 118 mg | C(C1=CC=CC=C1)N1C=CC2=C1N=C(N=C2SC2=C(C=C(C=C2C)C)C)F | C22H20FN3S
solvent | 1-methyl-2-pyridone | 2 mL | CN1C(C=CC=C1)=O | C6H7NO
solvent | 1-methyl-2-pyridone | 2 mL | CN1C(C=CC=C1)=O | C6H7NO
product | 4-[7-benzyl-4-(2,4,6-trimethyl-phenylsulfanyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino]-benzonitrile | 123 mg, 83% | C(C1=CC=CC=C1)N1C=CC2=C1N=C(N=C2SC2=C(C=C(C=C2C)C)C)NC2=CC=C(C#N)C=C2 | C29H25N5S
